US05994569
A suspension of 7.17 g of (methoxymethyl)triphenylphosphonium chloride in 50 ml of abs. THF was cooled to -20° and treated with 12.1 ml of nBuLi (1.55 M, hexane). 30 minutes later, the deep red ylide solution was cooled down to -78° and 3.525 g of (S)-2-[(4aR,5S,8aS)-5-(tert-butyldimethyl-silanyloxy)-8a-methyl-3,4,4a,5,6,7,8,8a-octa-hydronaphthalen-1-yl]-propionaldehyde dissolved in 21 ml of abs. THF, were slowly added and the reaction mixture kept for 45 minutes at that temperature. Partition between hexane and EtOH/H2O=8/2, washing of the upper layer with EtOH/H2O=8/2, drying over magnesium sulfate, evaporating i. V. and flash chromatography (SiO2, hexane/AcOEt=99/1) generated 2.590 g of an enolether intermediate as E/Z-mixture. This enolether was hydrolyzed by dissolving it in 30 ml of THF containing 10 ml of 25% aq. HCl. After 90 minutes at ambient temperature, the reaction mixture was poured onto crushed ice, extracted with ether, washed with water and brine, dried over magnesium sulfate and evaporated to dryness. Flash chromatography (SiO2, hexane/AcOEt=98/2) yielded 2.424 g of (R)-3-[(4aR,5S,8aS)-5-(tert-butyldimethyl-silanyloxy)-8a-methyl-3,4,4a,5,6,7,8,8a-octahydro-naphthalen-1-yl]-butyraldehyde as yellowish oil.

reactant | (methoxymethyl)triphenylphosphonium chloride | 7.17 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | nBuLi | 1.55 M, 12.1 ml | [Li]CCCC
reactant | (S)-2-[(4aR,5S,8aS)-5-(tert-butyldimethyl-silanyloxy)-8a-methyl-3,4,4a,5,6,7,8,8a-octa-hydronaphthalen-1-yl]-propionaldehyde | 3.525 g | C(C)(C)(C)[Si](O[C@@H]1[C@@H]2CCC=C([C@]2(CCC1)C)[C@@H](C=O)C)(C)C | C20H36O2Si
solvent | THF | C1CCOC1 | C4H8O
product | (R)-3-[(4aR,5S,8aS)-5-(tert-butyldimethyl-silanyloxy)-8a-methyl-3,4,4a,5,6,7,8,8a-octahydro-naphthalen-1-yl]-butyraldehyde | 2.424 g | C(C)(C)(C)[Si](O[C@@H]1[C@@H]2CCC=C([C@]2(CCC1)C)[C@@H](CC=O)C)(C)C | C21H38O2Si
